US05880126
A solution of 1.096 g of 5-benzyloxy-4-methyl-9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methylethyl)-ester (2.93 mmol) in 2.9 ml of tetrahydrofuran is added to a suspension of 92.2 mg of sodium hydride (3.03 mmol; 80% in mineral oil) at 0° C. under nitrogen, and it is stirred for 10 minutes at 0° C. Then, 750 mg (2.93 mmol) of N-methyl-N-phenylethyl-2-bromoacetamide is added, and it is then stirred for 18 hours at 24° C. It is filtered off on Celite, the filtrate is concentrated by evaporation in a vacuum, and the crude product that is thus obtained is purified on a silica gel column with hexane/0-100% ethyl acetate. In this way, 1.24 g of 5-benzyloxy-4-methyl-9-(2-[N-methyl-N-(2-phenylethyl)-amino]-2-oxoethyl)-9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methylethyl)-ester is obtained as an amorphous, yellowish-colored solid with a melting point of 69°-74° C.

reactant | 5-benzyloxy-4-methyl-9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methylethyl)-ester | 2.93 mmol, 1.096 g | CC(C)OC(=O)C1=C(C2=C(NC3=CC=CC(=C23)OCC2=CC=CC=C2)C=N1)C | C23H22N2O3
reactant | sodium hydride | 3.03 mmol, 92.2 mg | [H-].[Na+]
reactant | N-methyl-N-phenylethyl-2-bromoacetamide | 2.93 mmol, 750 mg | CN(C(CBr)=O)CCC1=CC=CC=C1 | C11H14BrNO
solvent | tetrahydrofuran | 2.9 ml | O1CCCC1 | C4H8O
product | 5-benzyloxy-4-methyl-9-(2-[N-methyl-N-(2-phenylethyl)-amino]-2-oxoethyl)-9H-pyrido[3,4-b]indole-3-carboxylic acid-(1-methylethyl)-ester | 1.24 g | CC(C)OC(=O)C1=C(C2=C(N(C3=CC=CC(=C23)OCC2=CC=CC=C2)CC(=O)N(CCC2=CC=CC=C2)C)C=N1)C | C34H35N3O4
